US07183276B2
To a solution of 2-methyl-4-(5,6,7,8-tetrahydronaphthalen-2-yl)oxazole (9.0 g) in dichloromethane (90 mL) was added dropwise a solution of bromine (2.2 mL) in dichloromethane (5 mL) at room temperature. After stirring the mixture at room temperature for 30 min, saturated aqueous sodium hydrogen carbonate was added, and the mixture was extracted with dichloromethane. The organic layer was dried over anhydrous magnesium sulfate and concentrated to give 5-bromo-2-methyl-4-(5,6,7,8-tetrahydronaphthalen-2-yl)oxazole (11.7 g, yield 95%) as crystals. Recrystallization from ethanol gave colorless plate crystals. melting point: 97–98° C.

reactant | 2-methyl-4-(5,6,7,8-tetrahydronaphthalen-2-yl)oxazole | 9.0 g | CC=1OC=C(N1)C1=CC=2CCCCC2C=C1 | C14H15NO
reactant | bromine | 2.2 mL | BrBr | Br2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 90 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 5-bromo-2-methyl-4-(5,6,7,8-tetrahydronaphthalen-2-yl)oxazole | 11.7 g, yield 95% | BrC1=C(N=C(O1)C)C1=CC=2CCCCC2C=C1 | C14H14BrNO
